US06221985B1
Synthesis of Cyclopentadienyl(tri-t-butylsi loxy)Titani um Dichloride (or “CpTiOSitBu3Cl2”)
NaOSitBu3 (0.502 g, 2.106 mmol, prepared by reacting Na and tBu3SiOH in refluxing hexane) in toluene (20 mL) was added to a toluene solution (20 mL) of CpTiCl3 (0.462 g, 2.106 mmol) at −78° C. The solution was warmed to 23° C. and stirred for about 5 hours. The solution was pumped to dryness and the residue was extracted with hexane. The hexane solution was concentrated to ˜2 mL and the product crystallized as yellow-orange crystals at −70° C. Yield was 0.79g, 94%. 1H NMR (C7D8, δ): 6.22 (s, 5H), 1.17 (s, 27H).

reactant | NaOSitBu3 | 2.106 mmol, 0.502 g | O([Na])[Si](C(C)(C)C)(C(C)(C)C)C(C)(C)C
reactant | CpTiCl3 | 2.106 mmol, 0.462 g | [CH-]1C=CC=C1.Cl[Ti+](Cl)Cl
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Cyclopentadienyl(tri-t-butylsi loxy)Titani um Dichloride | [Cl-].[Cl-].C1(C=CC=C1)[Ti+2]O[Si](C(C)(C)C)(C(C)(C)C)C(C)(C)C | InChI=1S/C12H27OSi.C5H5.2ClH.Ti/c1-10(2,3)14(13,11(4,5)6)12(7,8)9;1-2-4-5-3-1;;;/h1-9H3;1-5H;2*1H;/q-1;;;;+3/p-2
